US08119778B2
Preparation of the Starting Material 2-(4′-nitrophenylazo-)-4-methylthio-phenol
This is prepared similarly to Example 1 using 19.6 g (142 mmoles) of 4-nitro-aniline, 10% sodium nitrite solution (103.5 ml), and 20 g (142 mmoles) of 4-methylthio-phenol.

reactant | 4-nitro-aniline | 142 mmoles, 19.6 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | sodium nitrite | 103.5 ml | N(=O)[O-].[Na+]
reactant | 4-methylthio-phenol | 142 mmoles, 20 g | CC1=CC=C(C=C1)S | C7H8S
product | 2-(4′-nitrophenylazo-)-4-methylthio-phenol | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=C(C=CC(=C1)C)S | C13H11N3O2S
